US07199147B2
Under a nitrogen atmosphere, a 2M-lithium diisopropylamide solution (7.32 ml, 0.0146 mmol) was added dropwise to a solution of methyl cis-3-methoxycyclohexane-carboxylate (1.80 g, 0.0105 mol) in tetrahydrofuran (36 ml) at −78° C. over a period of 15 minutes. After 3 hours, a solution of methyl iodide (4.45 g, 0.0314 mmol) in tetrahydrofuran (9 ml) was added dropwise thereto over a period of 20 minutes, and the resulting mixture was slowly warmed up to 0° C. After 3 hours, a saturated aqueous ammonium solution was added thereto and the resulting mixture was poured into water and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain methyl 3-methoxy-1-methylcyclohexanecarboxylate (1.8985 g, 98%, a 4:1 mixture of isomers).

reactant | lithium diisopropylamide | 0.0146 mmol, 7.32 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl cis-3-methoxycyclohexane-carboxylate | 0.0105 mol, 1.80 g | CO[C@H]1C[C@H](CCC1)C(=O)OC | C9H16O3
reactant | methyl iodide | 0.0314 mmol, 4.45 g | CI | CH3I
reactant | ammonium | [NH4+]
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl 3-methoxy-1-methylcyclohexanecarboxylate | COC1CC(CCC1)(C(=O)OC)C | C10H18O3
